* Bell filter topology from an SSL-style EQ

* V1 vi 0 AC(1 0)
V1 vi 0 PULSE(-1 1 0 10m 10m 1u 20m)
R13 v20 vn3 4.75k
R50 vi vn3  4.75k
R12 vo vn3 4.75k
C8 vo vn3 330p IC=0
R16 vo v11 1k
Rboostp v11 v13 15k
Rboostm v13 v12 10k
R40 v13 0 4.7k
R11 v12 vi 1k
R17 v13 0 1.8k
Rf1 v13 v14 50k
R18 v14 vr18 4.3k
C9 vr18 vn4 4.7n IC=0
R64 v20 v13 12k
R19 vn4 v16 5.1k
Rf2 v16 v15 50k
C10 vn4 v15 4.7n IC=0
C11 v15 vc11 100u IC=0
R22 vc11 v19 910
R21 v19 v18 1.8k
R20 v18 0 470
Rq1p va4 v19 2k
Rq1m va4 v18 8k
R62 va4 0 100k
R23 vc11 vn5 750
R24 vn5 v21 750
Rq2 v21 v20 8k

* E<name> out+ out- in+ in- gain
E3 vo 0 0 vn3 1e6
E4 v15 0 va4 vn4 1e6
E5 v20 0 0 vn5 1e6

Escaled vo_scaled 0 value = {V(vo)*0.5} ; netlist_skip

* .ac oct 100 20 20k
.tran 0 80m 0 1.0u
.wav "vin.wav" 32 96k V(vi)
.wav "vout.wav" 32 96k V(vo_scaled)
.options plotwinsize=0
.backanno
.end
